Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])=[C:5][C@@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:4]>>[H:1][C:2]([H:3])([H:4])[C:5][C@@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-1.83541636547
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([O:8][H:9])=[C:10]([H:11])[H:12]>>[C:7]([O:8][H:9])=[C:10]([H:11])[H:12].[H:1][O:2][C:3]=[C:4]([H:5])[H:6],4.93228084528
[H:1][C:2]([H:3])=[C:4]([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:4]([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2][H:3],7.099753999999999
[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[C:10]=[C:11]([H:12])[H:13].[H:9],1.61098860913
[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[C:4]([H:5])=[C:6]([H:7])[O:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2]#[C:3],6.4269842554
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])[O:10][C:11]([H:12])([H:13])[H:14].[H:9],4.07471779379
[C:2]([O:3]/[C:4]=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1]>>[H:1][C:2]([O:3]/[C:4]=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.4073832825
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]#[C:11][H:12].[H:13],2.08525449902
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:11]=[C:12]([H:13])[H:14].[H:10],1.74942525658
[C:1]#[C:2][C:5]([H:6])([H:7])[C:8]#[C:9][H:10].[O:3][H:4]>>[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][H:10],-4.66028454774
[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])[H:9],3.6269314094
[C:5]([H:6])=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3][H:4]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-4.88232853675
[H:1][C:2]([H:3])=[C:4]([H:5])[C:7]([H:8])([H:9])[C:10]([H:11])[O:12][C:13]([H:14])([H:15])[H:16].[H:6]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[O:12][C:13]([H:14])([H:15])[H:16],-1.76169394881
[H:1][C:2]=[C:3]([O:4][H:5])[O:6][C:7]#[C:8][H:9]>>[H:1][C:2]#[C:3][O:4][H:5].[O:6][C:7]#[C:8][H:9],-0.0864299531595
[O:1]=[C:2]([H:3])[C:4]#[C:5][C:6]([H:7])[H:8]>>[C:6]([H:7])[H:8].[O:1]=[C:2]([H:3])[C:4]#[C:5],7.58978472343
[C:1].[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-5.55239439368
[O:1]=[C:2]([H:3])[O:4][C:5]([C:6]([H:7])[H:8])=[C:9]([H:10])[H:11]>>[C:2](=[C:6]([H:7])[H:8])=[C:9]([H:10])[H:11].[O:1][C:5]([H:3])=[O:4],1.50950010757
[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:13].[H:1][C:2](=[C:3]=[C:10]([H:11])[H:12])[C:14]([H:15])([H:16])[H:17]>>[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-1.12641403022
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]=[C:9]([H:10])[H:11],4.36727215125
[C:8]([H:9])[O:10][H:11].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])=[O:7]>>[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])[O:10][H:11],-0.75691034692
[H:1][C:2]([H:3])=[C:4][H:5].[O:6]=[C:7][O:8][C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7][O:8][C:9]([H:10])([H:11])[H:12],-2.13911946247
[C:5][C:6]([H:7])([H:8])[O:9][H:10].[O:1]=[C:2]([H:3])[H:4]>>[O:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[O:9][H:10],-0.40892992
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([O:8][H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:7]>>[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.12913302212
[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7]=[C:9]([H:10])[H:11].[H:8]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7]([H:8])=[C:9]([H:10])[H:11],-4.7318893988
[O:1]=[C:2]([C:3]=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[H:10]>>[H:6].[O:1]=[C:2]([C:3]#[C:4][H:5])[C:7]([H:8])([H:9])[H:10],2.07167479689
[H:1][C:2]#[C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:1][C:2]#[C:3][C@@:4]([H:5])([O:6])[C:8]([H:9])=[C:10]([H:11])[H:12].[H:7],4.73736510264
[C:2]#[C:3][O:4][C:5]#[C:6][H:7].[H:1]>>[H:1][C:2]#[C:3][O:4][C:5]#[C:6][H:7],-5.7594306236
[H:1][C:2]([O:3][C:4]([H:5])[H:6])[C@@:10]([C:7]([H:8])[H:9])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]1[O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C@@:10]1([H:11])[C:12]([H:13])([H:14])[H:15],-3.37646313616
